US04873232
Preparation of 2-ethoxycarbonylamino-6-propenylbenzoic Acid and Related Compounds of Formula (I-C1) by Reaction Scheme III
Alternatively, the title compound was prepared by stirring a solution of 2-ethoxy-5-propenyl-4H-3,1-benzoxazin-4-one in THF (5 ml) and 2% sodium hydroxide (5 ml) for 6 hours. The organic solvent was removed by evaporation. The aqueous solution was acidified to pH=2 with dropwise addition of 6 M HCl. The solution was extracted with ethyl acetate and the organic was dried (magnesium sulphate) and evaporated to give an oil.

reactant | 2-ethoxy-5-propenyl-4H-3,1-benzoxazin-4-one | C(C)OC1=NC2=C(C(O1)=O)C(=CC=C2)C=CC | C13H13NO3
reactant | THF | 5 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 5 ml | [OH-].[Na+]
product | 2-ethoxycarbonylamino-6-propenylbenzoic Acid | C(C)OC(=O)NC1=C(C(=O)O)C(=CC=C1)C=CC | C13H15NO4
